US07678801B2
N-cyclopropyl-3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methylbenzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methylbenzoic acid (26 mg, 0.05 mmol) in DMF (0.5 mL) were added HBTU (28 mg, 0.075 mmol), triethylamine (21.1 uL, 0.15 mmol) and cyclopropylamine (6.9 uL, 0.1 mmol). The mixture was stirred at rt overnight. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (13.5 mg, 48%). LC-MS m/z 561 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methylbenzoic acid | 0.05 mmol, 26 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C(=C(C(=O)O)C=CC2)C)CC | C28H29F2N5O3
reactant | HBTU | 0.075 mmol, 28 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.15 mmol, 21.1 uL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 0.1 mmol, 6.9 uL | C1(CC1)N | C3H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-2-methylbenzamide | 13.5 mg, 48% | C1(CC1)NC(C1=C(C(=CC=C1)C=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C)=O | C31H34F2N6O2
